US07795262B2
Step 3. Preparation of 1-(6-chloropyridazin-3-yl)-5-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine
A mixture of 1-(6-chloropyridazin-3-yl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine hydrochloride (1.05 g, 3.86 mmol), 1-(chloroacetyl)-4-cyclobutylpiperazine (840 mg, 3.86 mmol), K2CO3 (2.11 g, 15.4 mmol) and KI (66 mg, 0.4 mmol) in CH3CN (20 mL) is stirred at rt overnight. The solvent is removed in vacuo and the residue is partitioned between water (20 mL) and EtOAc (20 mL). The layers are separated and the aqueous layer is extracted with EtOAc (3×20 mL). The combined extracts are washed with brine (30 μL), dried and evaporated. The resultant oil is purified by flash column with DCM/MeOH/NH4OH (100:5:0.5) to give the title compound as a light yellow solid. 1H NMR (6, CDCl3): 8.16 (d, 1H), 7.57 (d, 1H), 7.51 (s, 1H), 3.58-3.62 (m, 6H), 3.40 (s, 2H), 3.35 (t, 2H), 2.86 (t, 2H), 2.62-2.72 (m, 1H), 2.27 (q, 4H), 1.62-2.02 (m, 6H). MS (M+1): 416.2.

reactant | 1-(6-chloropyridazin-3-yl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine hydrochloride | 3.86 mmol, 1.05 g | Cl.ClC1=CC=C(N=N1)N1N=CC=2CNCCC21
reactant | 1-(chloroacetyl)-4-cyclobutylpiperazine | 3.86 mmol, 840 mg | ClCC(=O)N1CCN(CC1)C1CCC1 | C10H17ClN2O
reactant | K2CO3 | 15.4 mmol, 2.11 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 1-(6-chloropyridazin-3-yl)-5-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | ClC1=CC=C(N=N1)N1N=CC=2CN(CCC21)CC(=O)N2CCN(CC2)C2CCC2 | C20H26ClN7O
